### PR TITLE
setoid rewriting: improve support for forall_relation

### PR DESCRIPTION
**Pull request by MathisBD**
This PR improves the support for `forall_relation` in setoid rewriting:
1. Added support for `forall_relation` in the normalization wrt flip algorithm of setoid rewriting.
2. Added a notation for `forall_relation` in scope `signature_scope` which allows writing instances like `Proper (R ==> ∀ x y, S)` with `x` and `y` appearing in `S`.

### CODE REVIEW

**Comment by MathisBD** [comment]
There seems to be lots of trailing whitespace removed in the diff, someone knows what's going on?

**Comment by MathisBD** [comment]
Ah it seems that `Notation "∀ x .. y , R" := ...` will not work because it's already used elsewhere. What do you suggest? Not exporting the notation by default, so that users have to do something like `Import ProperForallNotation`, or using a different notation?

**Comment by Lysxia** [comment]
> There seems to be lots of trailing whitespace removed in the diff, someone knows what's going on?

Probably your editor (or git) is configured to auto-delete trailing whitespace and you probably want to disable it.

> Ah it seems that Notation "∀ x .. y , R" := ... will not work because it's already used elsewhere.

How about `forallR`?

**Comment by MathisBD** [comment]
> Probably your editor (or git) is configured to auto-delete trailing whitespace and you probably want to disable it.

Yes my editor is doing this. I'm confused now: doesn't Rocq have a policy of no trailing whitespace in source files?

> How about forallR?

Why not. What do others think?

**Comment by thomas-lamiaux** [comment]
The linter is supposed to reject trailing white spaces, I don't know what is up. @SkySkimmer ?

(It might be that the modif are checked not to introduce trailing white spaces but not that the whole project is without :shrug:)

File: test-suite/success/rewrite_forall_relation.v [hunk 1]
```diff
@@ -0,0 +1,15 @@
...
+Axiom T : nat -> forall n1 n2 n3, K n1 n2 n3 -> Prop.
+
+Instance T_Proper : Proper (le ==> ∀ n1 n2 n3, eq ==> Basics.impl)%signature T.
+Admitted.
+
+Lemma test i j (Hle : i <= j) n1 n2 n3 (k : K n1 n2 n3) (H : T i n1 n2 n3 k) : T j n1 n2 n3 k.
+Proof.
+  rewrite <-Hle.
+  exact H.
+Qed.
```
Comment (thomas-lamiaux) [inline test-suite/success/rewrite_forall_relation.v]:
```suggestion
Qed.

```

**Comment by SkySkimmer** [comment]
We check that changed lines don't have trailing whitespace but we allow old trailing whitespace to exist

**Comment by mattam82** [comment]
> > Probably your editor (or git) is configured to auto-delete trailing whitespace and you probably want to disable it.
> 
> Yes my editor is doing this. I'm confused now: doesn't Rocq have a policy of no trailing whitespace in source files?

It does now, but on existing files we avoid brutally doing it for easier diff reading and blaming.

> > How about forallR?
> 
> Why not. What do others think?

Fine with me

**Comment by MathisBD** [comment]
Could someone help me solve the whitespace issues? When I run `./dev/tools/pre-commit` it does nothing:
```
Auto fixing whitespace issues (git-fix-ws-log.m114NT)...
```
So I would expect whitespace to be ok, but when I run `./dev/lint-repository.sh` I get this:
```
Preparing worktree (detached HEAD 39ab00f692)
HEAD is now at 39ab00f692 setoid rewriting: improve support for forall_relation
/tmp/tmp.WC2PTjJXrg ~/Documents/forks/rocq
Checking 39ab00f69243c06c8f906c50e8d8df9a04fced95
HEAD is now at 39ab00f692 setoid rewriting: improve support for forall_relation
test-suite/success/rewrite_forall_relation.v:16: new blank line at EOF.
theories/Corelib/Classes/Morphisms.v:827: new blank line at EOF.
dune build  @check
~/Documents/forks/rocq                     
Whitespace errors!
In commits 39ab00f69243c06c8f906c50e8d8df9a04fced95
If you use emacs, you can prevent this kind of error from reoccurring by installing ws-butler and enabling ws-butler-convert-leading-tabs-or-spaces.
```

**Comment by SkySkimmer** [comment]
edit the files it tells you to remove the extra newlines then commit --amend
pre-commit needs to be used before commit, not after

alternatively redo the commit: 
- reset --soft HEAD~
- setup pre commit (run configure explicitly or put
~~~
#!/bin/sh

if [ -x dev/tools/pre-commit ]; then
    exec dev/tools/pre-commit
fi
~~~
in .git/hooks/pre-commit and chmod +x)
- commit

**Comment by MathisBD** [comment]
@mattam82 this is ready for review

**Comment by MathisBD** [comment]
@coqbot run full ci

**Comment by ppedrot** [comment]
What is this blocking on?

**Comment by MathisBD** [comment]
> What is this blocking on?

Nothing, I think the CI failure is spurious. I'll re-run it to see.

**Comment by MathisBD** [comment]
@coqbot run full ci

**Comment by MathisBD** [comment]
@ppedrot @mattam82 this can be merged

**Comment by ppedrot** [comment]
I'll leave the merge to @mattam82, he's the assignee after all.

**Comment by ppedrot** [comment]
ping @mattam82

**Review by mattam82 — APPROVED** [review]
Looks good, thanks!

**Comment by mattam82** [comment]
@coqbot merge now

**Comment by MathisBD** [comment]
Great, thanks @mattam82 :)
